US09029560B2
Preparation of tert-butyl allyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB65)
The title compound was prepared as described in Example 102 using tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate (C50) and allyl bromide and isolated as a yellow oil (0.144 g, 99%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.15-8.08 (m, 2H), 7.85-7.76 (m, 2H), 7.39 (dq, J=7.8, 1.0 Hz, 2H), 7.30 (s, 2H), 5.76 (s, 1H), 5.12 (s, 2H), 3.76 (d, J=45.8 Hz, 2H), 3.42 (s, 2H), 2.89 (d, J=0.7 Hz, 2H), 1.47 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 489 ([M+H]+).

reactant | tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)(F)F | C22H23F3N4O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | tert-butyl allyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C(C=C)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H27F3N4O3
